US05872118
This compound was prepared in an analogous manner to Example 18c with the replacement of 3-(4-fluorophenyl)butyrate with ethyl 3-(4-fluorophenyl)valerate (38.95 g 0.144 mol, containing 29% triethyl phosphoneacetate) and using an excess of 85% potassium hydroxide (18.05 g, 0.273 mol, Mallinckrodt). The dichloromethane layers were combined, washed with deionized water (50 ml) and concentrated by spin evaporation in vacuo. The residue was crystallized from hexanes to give 23.47 g (83%) of 3-(4-flurophenyl)valeric acid as a white crystalline solid: NMR (DMSO-d6): d 12 (s, 1H), 7.28-7.24 (m, 2H), 7.14-7.08 (m, 2H), 2.91-2.89 (m, 1H), 2.64-2.41 (m, 2H), 1.66-162 (m, 1H), 1.56-1.51 (m, 1H), 0.71 (t, 3H, J=7.3 Hz).

reactant | ethyl 3-(4-fluorophenyl)valerate | 0.144 mol, 38.95 g | FC1=CC=C(C=C1)C(CC(=O)OCC)CC | C13H17FO2
reactant | potassium hydroxide | 0.273 mol, 18.05 g | [OH-].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4-flurophenyl)valeric acid | 23.47 g, 83% | FC1=CC=C(C=C1)C(CC(=O)O)CC | C11H13FO2
